* Z:\mnt\design.r\spice\examples\1154.asc
V1 N001 0 PULSE(0 5 0 1u 1u 5m 10m)
M§Q1 N004 N007 N008 N008 Si9936DY
R1 N002 N004 .036
C1 N002 N003 .1µ
R2 N004 N003 100K
XU1 N001 0 N006 0 0 N007 N003 N002 LTC1154
V2 N002 0 PWL(0 5 1 16)
R3 N006 N005 51K
Rload N008 0 10
V3 N005 0 5
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1 startup
.lib LTC1154.sub
.backanno
.end
